US07816406B2
2-Methylsulfanyl-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid ethyl ester.
A solution of ethyl 2-(4-methoxy-2-(methylthio)pyrimidine-5-carbonyl)-3,3-bis(methylthio)acrylate (475 mg, 1.27 mmol) and 2-aminobenzenethiol (200 mg, 1.60 mmol) in toluene (5 mL) was heated to dryness and continued heating neat at 140° C. for 1 h. Toluene (30 mL) and K2CO3 (350 mg, 2.53 mmol) were added to the reaction and it was heated for an additional 1 h. The reaction mixture was cooled to rt and EtOAc (100 mL) and H2O (50 mL) were added. The layers were separated and the organic layer was washed with brine (100 mL), dried over Na2SO4, and concentrated. The crude solid was triturated in Et2O to afford the desired product as a yellow solid (260 mg, 55%). MS (m/z): 372 (MH+). 1H NMR (DMSO-d6) δ: 9.37 (d, 1H), 9.30 (s, 1H), 8.06 (m, 1H), 7.65 (m, 1H), 7.54 (m, 1H), 4.35 (q, 2H), 2.78 (s, 3H), 1.34 (t, 3H).

reactant | ethyl 2-(4-methoxy-2-(methylthio)pyrimidine-5-carbonyl)-3,3-bis(methylthio)acrylate | 1.27 mmol, 475 mg | COC1=NC(=NC=C1C(=O)C(C(=O)OCC)=C(SC)SC)SC | C14H18N2O4S3
reactant | 2-aminobenzenethiol | 1.60 mmol, 200 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | K2CO3 | 2.53 mmol, 350 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 50 mL | O | H2O
product | 2-Methylsulfanyl-5-oxo-5H-7-thia-1,3,11b-triaza-benzo[c]fluorene-6-carboxylic acid ethyl ester | 260 mg, 55% | C(C)OC(=O)C=1C(C2=C(N3C=4C=CC=CC4SC13)N=C(N=C2)SC)=O | C17H13N3O3S2
